US08877782B2
(1,1-Dioxo-1λ6-thiomorpholin-4-yl)-{6-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-methanone
As described for example 105, 6-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid (99 mg, 0.33 mmol) was converted, using thiomorpholine-S,S-dioxide instead of 2,2,2-trifluoroethylamine, to the title compound (73 mg, 55%) which was obtained as a white solid. MS: m/e=446.1 [M+H]+.

reactant | 6-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.33 mmol, 99 mg | FC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C17H13FN2O4
reactant | thiomorpholine-S,S-dioxide | N1CCS(CC1)(=O)=O | C4H9NO2S
product | (1,1-Dioxo-1λ6-thiomorpholin-4-yl)-{6-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-methanone | 73 mg, 55% | O=S1(CCN(CC1)C(=O)C=1C=NC(=CC1)OCC=1C(=NOC1C)C1=CC=C(C=C1)F)=O | C21H20FN3O5S
